### PR TITLE
[Merged by Bors] - feat(Mathlib/Order/PrimeSeparator): prime ideal separator in a bounded distributive lattice

### PR DESCRIPTION
**Pull request by samvang**
We prove that a disjoint filter and ideal in a bounded distributive lattice can always be separated by a prime ideal. This is a step towards establishing Stone duality (currently in development here: https://github.com/samvang/StoneDualityInLean/)

- [x] depends on: #12651 (ideals of sets are stable under directed unions and chains)
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Order/PrimeSeparator.lean [hunk 1]
```diff
@@ -0,0 +1,155 @@
...
+
+lemma mem_ideal_sup_principal (a b : α) (J : Ideal α) : b ∈ J ⊔ principal a ↔ ∃ j ∈ J, b ≤ j ⊔ a :=
+  ⟨fun ⟨j, ⟨jJ, _, ha', bja'⟩⟩ => ⟨j, jJ, le_trans bja' (sup_le_sup_left ha' j)⟩,
+    fun ⟨j, hj, hbja⟩ => ⟨j, hj, a, le_refl a, hbja⟩⟩
+
+theorem prime_ideal_of_disjoint_filter_ideal (hFI : Disjoint (F : Set α) (I : Set α)) :
+    ∃ J : Ideal α, (IsPrime J) ∧ I ≤ J ∧ Disjoint (F : Set α) J := by
+
+  -- Let S be the set of proper ideals containing I and disjoint from F
+  set S : Set (Set α) := { J : Set α | IsIdeal J ∧ I ≤ J ∧ Disjoint (F : Set α) J }
```
Comment (AntoineChambert-Loir) [inline Mathlib/Order/PrimeSeparator.lean:50]: couldn't you define S as a `Set (Ideal α)`?

File: Mathlib/Order/PrimeSeparator.lean [hunk 2]
```diff
@@ -0,0 +1,155 @@
...
+    simp [S]
+    let ⟨J, hJ⟩ := hcNe
+    refine ⟨Order.isIdeal_sUnion_of_isChain (fun _ hJ ↦ (hcS hJ).1) hcC hcNe,
+            ⟨le_trans (hcS hJ).2.1 (le_sSup hJ), fun J hJ ↦ (hcS hJ).2.2⟩⟩
+
+  -- Thus, by Zorn's lemma, we can pick a maximal ideal J in S.
+  have zorn := zorn_subset_nonempty S chainub I IinS
+  have hJ := Exists.choose_spec zorn
+  set Jset := Exists.choose zorn
+  obtain ⟨⟨Jidl, IJ, JF⟩, ⟨_, Jmax⟩⟩ := hJ
```
Comment (AntoineChambert-Loir) [inline Mathlib/Order/PrimeSeparator.lean:70]: Does `⟨⟨Jidl, IJ : I ≤ J, JF⟩, ⟨_, Jmax⟩⟩ := hJ` work?

File: Mathlib/Order/PrimeSeparator.lean [hunk 3]
```diff
@@ -0,0 +1,155 @@
...
+  -- Therefore, since J is maximal, we must have Jᵢ ∉ S.
+  have J₁S : ↑J₁ ∉ S := fun h => J₁J (Jmax J₁ h JsubJ₁)
+  have J₂S : ↑J₂ ∉ S := fun h => J₂J (Jmax J₂ h JsubJ₂)
+
+  -- Since Jᵢ is an ideal that contains I, we have that Jᵢ is not disjoint from F.
+  have J₁F : ¬ (Disjoint (F : Set α) J₁) := by
+    intro hdis
+    apply J₁S
+    simp only [le_eq_subset, mem_setOf_eq, SetLike.coe_subset_coe, S]
+    exact ⟨J₁.isIdeal, IJ₁, hdis⟩
```
Comment (AntoineChambert-Loir) [inline Mathlib/Order/PrimeSeparator.lean:112]: IJ₁ is used only here, couldn't you just insert the proof at this point?
Same for IJ₂ below, and some other functions that you introduce.

File: Mathlib/Order/PrimeSeparator.lean [hunk 4]
```diff
@@ -0,0 +1,155 @@
...
+  have JsubJ₂ : J ≤ J₂ := le_sup_left
+  have IJ₁ : I ≤ J₁ := le_trans IJ' le_sup_left
+  have IJ₂ : I ≤ J₂ := le_trans IJ' le_sup_left
+  have a₁J₁ : a₁ ∈ J₁ := mem_of_subset_of_mem (le_sup_right : _ ≤ J ⊔ _) mem_principal_self
+  have a₂J₂ : a₂ ∈ J₂ := mem_of_subset_of_mem (le_sup_right : _ ≤ J ⊔ _) mem_principal_self
+  have J₁J : ↑J₁ ≠ Jset := by refine ne_of_mem_of_not_mem' a₁J₁ ha₁
+  have J₂J : ↑J₂ ≠ Jset := by refine ne_of_mem_of_not_mem' a₂J₂ ha₂
+
+  -- Therefore, since J is maximal, we must have Jᵢ ∉ S.
+  have J₁S : ↑J₁ ∉ S := fun h => J₁J (Jmax J₁ h JsubJ₁)
```
Comment (AntoineChambert-Loir) [inline Mathlib/Order/PrimeSeparator.lean:104]: Does the following work ?
```
 have J₁S : ↑J₁ ∉ S := fun h => J₁J (Jmax J₁ h le_sup_left)
  have J₂S : ↑J₂ ∉ S := fun h => J₂J (Jmax J₂ h le_sup_left)
```

File: Mathlib/Order/PrimeSeparator.lean [hunk 5]
```diff
@@ -0,0 +1,155 @@
...
+    _       = b ⊔ (a₁ ⊓ a₂) := (sup_inf_left b a₁ a₂).symm
+
+  -- Note that c₁ ⊓ c₂ ∈ F, since c₁ and c₂ are both in F and F is a filter.
+  -- Since F is an upper set, it now follows that b ⊔ (a₁ ⊓ a₂) ∈ F.
+  have ba₁a₂F : b ⊔ (a₁ ⊓ a₂) ∈ F := PFilter.mem_of_le ineq (PFilter.inf_mem c₁F c₂F)
+
+  -- Now, if we would have a₁ ⊓ a₂ ∈ J, then, since J is an ideal and b ∈ J, we would also get
+  -- b ⊔ (a₁ ⊓ a₂) ∈ J. But this contradicts that J is disjoint from F.
+
+  intro ha₁a₂
```
Comment (AntoineChambert-Loir) [inline Mathlib/Order/PrimeSeparator.lean:150]: You could probably do `apply not_not_intro JF`

File: Mathlib/Order/PrimeSeparator.lean [hunk 6]
```diff
@@ -0,0 +1,155 @@
...
+variable {F : PFilter α} {I : Ideal α}
+
+namespace DistribLattice
+
+
+lemma mem_ideal_sup_principal (a b : α) (J : Ideal α) : b ∈ J ⊔ principal a ↔ ∃ j ∈ J, b ≤ j ⊔ a :=
+  ⟨fun ⟨j, ⟨jJ, _, ha', bja'⟩⟩ => ⟨j, jJ, le_trans bja' (sup_le_sup_left ha' j)⟩,
+    fun ⟨j, hj, hbja⟩ => ⟨j, hj, a, le_refl a, hbja⟩⟩
+
+theorem prime_ideal_of_disjoint_filter_ideal (hFI : Disjoint (F : Set α) (I : Set α)) :
```
Comment (AntoineChambert-Loir) [inline Mathlib/Order/PrimeSeparator.lean:46]: Since `PFilter` and `Ideal` are extended by changing the preorder relation, is the “dual” result worth being stated?

File: Mathlib/Order/PrimeSeparator.lean [hunk 7]
```diff
@@ -0,0 +1,155 @@
...
+  -- Then I is in S...
+  have IinS : ↑I ∈ S := by
+    refine ⟨Order.Ideal.isIdeal I, by trivial⟩
+
+  -- ...and S contains upper bounds for any non-empty chains.
+  have chainub : ∀ c ⊆ S, IsChain (· ⊆ ·) c → c.Nonempty →  ∃ ub ∈ S, ∀ s ∈ c, s ⊆ ub := by
+    intros c hcS hcC hcNe
+    use sUnion c
+    refine ⟨?_, fun s hs ↦ le_sSup hs⟩
+    simp [S]
```
[the remark this answers is not in the document]
Comment (samvang) [reply Mathlib/Order/PrimeSeparator.lean:61]: Oops, indeed, thanks.

File: Mathlib/Order/PrimeSeparator.lean (hunk 5 above)
Comment (samvang) [reply Mathlib/Order/PrimeSeparator.lean:150]: This did not work for me, the goal at this point is a₁ ⊓ a₂ ∉ J which is not of the required form ¬ ¬ p.

File: Mathlib/Order/PrimeSeparator.lean (hunk 4 above)
Comment (samvang) [reply Mathlib/Order/PrimeSeparator.lean:104]: It works with type annotation: `fun h => J₁J (Jmax J₁ h (le_sup_left : J ≤ J₁))`
Happy to do that if it's preferred.

File: Mathlib/Order/PrimeSeparator.lean (hunk 3 above)
Comment (samvang) [reply Mathlib/Order/PrimeSeparator.lean:112]: Indeed, I'll try. Thanks

File: Mathlib/Order/PrimeSeparator.lean (hunk 4 above)
Comment (AntoineChambert-Loir) [reply Mathlib/Order/PrimeSeparator.lean:104]: I don't know whether that's really preferred, I try myself not to add too many intermediate lemmas (whose names have to be remembered), especially if they're only use once and their proofs is not too long.

File: Mathlib/Order/PrimeSeparator.lean (hunk 2 above)
Comment (samvang) [reply Mathlib/Order/PrimeSeparator.lean:70]: It works to replace `obtain` with `let`. Is that preferable? I did that for now.

File: Mathlib/Order/PrimeSeparator.lean (hunk 6 above)
Comment (samvang) [reply Mathlib/Order/PrimeSeparator.lean:46]: Sure, I added it.

Comment (samvang) [reply Mathlib/Order/PrimeSeparator.lean:46]: I'm not sure exactly what mathematical statement you mean? "If F and I are disjoint there exists a prime filter containing G and disjoint from I"? Yes, mathematically this is trivial to derive from what I proved, but it seems that "prime filter" for a distributive lattice has not been defined yet. (Of course it should! But I'm trying to keep the PR minimal.)

File: Mathlib/Order/PrimeSeparator.lean (hunk 1 above)
Comment (samvang) [reply Mathlib/Order/PrimeSeparator.lean:50]: I tried this quite seriously several times and would have indeed liked the definition to look like that. Unfortunately I don't see how to do it at the moment, for the following reason. In the proof of `chainub` a bit below, I need at some point to take a union of a chain of ideals in `S`. Mathlib has a complete lattice instance on `Ideal α`, so I can take the `sSup` instead of the `sUnion`, but the supremum of a set of ideals is not equal to a union in general. It is only a union in this case, because we are taking the supremum of a chain. So, if one wanted to make this work, it would require first proving (somewhere else) that `sSup` of a chain of ideals is a union. I'm not sure this is worthwhile.

Comment (AntoineChambert-Loir) [reply Mathlib/Order/PrimeSeparator.lean:50]: For standard rings, sSup of a chain of ideals is a union, and this is very useful for proving the existence of maximal ideals.

File: Mathlib/Order/PrimeSeparator.lean (hunk 2 above)
Comment (AntoineChambert-Loir) [reply Mathlib/Order/PrimeSeparator.lean]: some people use `obtain`, other use `rcases`, I don't think it matters too much.

File: Mathlib/Order/PrimeSeparator.lean (hunk 5 above)
Comment (AntoineChambert-Loir) [reply Mathlib/Order/PrimeSeparator.lean:147]: This was just a suggestion to avoid proving an intermediate lemma (and have a more backwards-type proof). No problem besides that.

File: Mathlib/Order/PrimeSeparator.lean (hunk 6 above)
Comment (AntoineChambert-Loir) [reply Mathlib/Order/PrimeSeparator.lean:46]: So you answered my question mathematically, the rest — if interesting — can be indicated as a TODO in that file, so that if somebody needs it, they will find the remark and maybe find it helpful.

File: Mathlib/Order/PrimeSeparator.lean (hunk 1 above)
Comment (samvang) [reply Mathlib/Order/PrimeSeparator.lean:50]: I would personally be in favor of implementing that for lattice ideals as well but I would imagine it is a separate PR.

File: Mathlib/Order/PrimeSeparator.lean [hunk 8]
```diff
@@ -0,0 +1,156 @@
...
+    refine ⟨?_, fun s hs ↦ le_sSup hs⟩
+    simp only [le_eq_subset, mem_setOf_eq, disjoint_sUnion_right, S]
+    let ⟨J, hJ⟩ := hcNe
+    refine ⟨Order.isIdeal_sUnion_of_isChain (fun _ hJ ↦ (hcS hJ).1) hcC hcNe,
+            ⟨le_trans (hcS hJ).2.1 (le_sSup hJ), fun J hJ ↦ (hcS hJ).2.2⟩⟩
+
+  -- Thus, by Zorn's lemma, we can pick a maximal ideal J in S.
+  have zorn := zorn_subset_nonempty S chainub I IinS
+  have hJ := Exists.choose_spec zorn
+  set Jset := Exists.choose zorn
```
Comment (Vierkantor) [inline Mathlib/Order/PrimeSeparator.lean:69]: You should be able to simplify this a bit with the `choose` tactic. From the top of my head:
```suggest
  choose Jset hJ using zorn_subset_nonempty S chainub I IinS
```
Unfortunately it looks like `choose` doesn't support the `rcases`-like destructor syntax so you can't also write
```lean
  choose Jset ⟨⟨Jidl, IJ, JF⟩, ⟨_, Jmax⟩⟩ using zorn_subset_nonempty S chainub I IinS
```

File: Mathlib/Order/PrimeSeparator.lean [hunk 9]
```diff
@@ -0,0 +1,156 @@
...
+
+
+lemma mem_ideal_sup_principal (a b : α) (J : Ideal α) : b ∈ J ⊔ principal a ↔ ∃ j ∈ J, b ≤ j ⊔ a :=
+  ⟨fun ⟨j, ⟨jJ, _, ha', bja'⟩⟩ => ⟨j, jJ, le_trans bja' (sup_le_sup_left ha' j)⟩,
+    fun ⟨j, hj, hbja⟩ => ⟨j, hj, a, le_refl a, hbja⟩⟩
+
+theorem prime_ideal_of_disjoint_filter_ideal (hFI : Disjoint (F : Set α) (I : Set α)) :
+    ∃ J : Ideal α, (IsPrime J) ∧ I ≤ J ∧ Disjoint (F : Set α) J := by
+
+  -- Let S be the set of proper ideals containing I and disjoint from F
```
Comment (Vierkantor) [inline Mathlib/Order/PrimeSeparator.lean:49]: Since you don't actually prove that the elements of `S` are proper:
```suggestion
  -- Let S be the set of (proper) ideals containing I and disjoint from F
```

File: Mathlib/Order/PrimeSeparator.lean [hunk 10]
```diff
@@ -0,0 +1,156 @@
...
+    simp only [le_eq_subset, mem_setOf_eq, disjoint_sUnion_right, S]
+    let ⟨J, hJ⟩ := hcNe
+    refine ⟨Order.isIdeal_sUnion_of_isChain (fun _ hJ ↦ (hcS hJ).1) hcC hcNe,
+            ⟨le_trans (hcS hJ).2.1 (le_sSup hJ), fun J hJ ↦ (hcS hJ).2.2⟩⟩
+
+  -- Thus, by Zorn's lemma, we can pick a maximal ideal J in S.
+  have zorn := zorn_subset_nonempty S chainub I IinS
+  have hJ := Exists.choose_spec zorn
+  set Jset := Exists.choose zorn
+  let ⟨⟨Jidl, IJ, JF⟩, ⟨_, Jmax⟩⟩ := hJ
```
Comment (Vierkantor) [inline Mathlib/Order/PrimeSeparator.lean:70]: Oh wait, I'm a silly goose. `rcases`/`obtain` can do this directly since we're making a `Prop`!
```suggestion
  obtain ⟨Jset, ⟨Jidl, IJ, JF⟩, ⟨_, Jmax⟩⟩ := zorn_subset_nonempty S chainub I IinS
```

File: Mathlib/Order/PrimeSeparator.lean [hunk 11]
```diff
@@ -0,0 +1,156 @@
...
+  -- Consider the ideals J₁, J₂ generated by J ∪ {a₁} and J ∪ {a₂}, respectively.
+  let J₁ := J ⊔ principal a₁
+  let J₂ := J ⊔ principal a₂
+
+  -- For each i, Jᵢ is an ideal that contains aᵢ, and is not equal to J.
+
+  have a₁J₁ : a₁ ∈ J₁ := mem_of_subset_of_mem (le_sup_right : _ ≤ J ⊔ _) mem_principal_self
+  have a₂J₂ : a₂ ∈ J₂ := mem_of_subset_of_mem (le_sup_right : _ ≤ J ⊔ _) mem_principal_self
+  have J₁J : ↑J₁ ≠ Jset := by refine ne_of_mem_of_not_mem' a₁J₁ ha₁
+  have J₂J : ↑J₂ ≠ Jset := by refine ne_of_mem_of_not_mem' a₂J₂ ha₂
```
Comment (Vierkantor) [inline Mathlib/Order/PrimeSeparator.lean:98]: Writing `by refine` is sometimes a trick to change the order of elaboration, but doesn't seem to do anything here:
```suggestion
  have J₁J : ↑J₁ ≠ Jset := ne_of_mem_of_not_mem' a₁J₁ ha₁
  have J₂J : ↑J₂ ≠ Jset := ne_of_mem_of_not_mem' a₂J₂ ha₂
```

File: Mathlib/Order/PrimeSeparator.lean [hunk 12]
```diff
@@ -0,0 +1,156 @@
...
+
+  -- Now, if we would have a₁ ⊓ a₂ ∈ J, then, since J is an ideal and b ∈ J, we would also get
+  -- b ⊔ (a₁ ⊓ a₂) ∈ J. But this contradicts that J is disjoint from F.
+
+  intro ha₁a₂
+  have notdis : ¬ (Disjoint (F : Set α) J) := by
+    rw [Set.not_disjoint_iff]
+    use b ⊔ (a₁ ⊓ a₂)
+    exact ⟨ba₁a₂F, sup_mem bJ ha₁a₂⟩
+  exact notdis JF
```
Comment (Vierkantor) [inline Mathlib/Order/PrimeSeparator.lean:152]: With `contrapose` you can go from `(hP : P) ⊢ ¬Q` to `(hQ : Q) ⊢ ¬ P` in one tactic.
```suggestion
  contrapose! JF with ha₁a₂
  rw [Set.not_disjoint_iff]
  use b ⊔ (a₁ ⊓ a₂)
  exact ⟨ba₁a₂F, sup_mem bJ ha₁a₂⟩
```

File: Mathlib/Order/PrimeSeparator.lean [hunk 13]
```diff
@@ -0,0 +1,156 @@
...
+
+  -- Since J is an ideal, we have b := b₁ ⊔ b₂ ∈ J.
+  let b := b₁ ⊔ b₂
+  have bJ : b ∈ J := sup_mem b₁J b₂J
+
+  have ineq : c₁ ⊓ c₂ ≤ b ⊔ (a₁ ⊓ a₂) :=
+  -- Now we compute: b ⊔ (a₁ ⊓ a₂) = (b ⊔ a₁) ⊓ (b ⊔ a₂) by distributivity
+  -- and b ⊔ aᵢ ≥ bᵢ ⊔ aᵢ by definition of b and monotonicity of ⊔.
+  -- Thus, b ⊔ (a₁ ⊓ a₂) ≥ (b₁ ⊔ a₁) ⊓ (b₂ ⊔ a₂) ≥ c₁ ⊓ c₂,
+  -- with the last inequality holding by monotonicity of inf.
```
Comment (Vierkantor) [inline Mathlib/Order/PrimeSeparator.lean:133]: You have commented this proof quite nicely but at this point it's slightly too literal with the actual code. I wouldn't include these comments, or perhaps shorten them to a single sentence explaining why this `ineq` will be useful.
```suggestion
```

**Review by Vierkantor — APPROVED** [review]
Your proof is very nicely commented! It is slightly long for a typical Mathlib proof but there are no obvious intermediate results that I can suggest splitting off. So I think with a few tricks to achieve more powerful tactics this is good to go.

bors d+

File: Mathlib/Order/PrimeSeparator.lean (hunk 10 above)
Comment (samvang) [reply Mathlib/Order/PrimeSeparator.lean:70]: Great.

File: Mathlib/Order/PrimeSeparator.lean (hunk 9 above)
Comment (samvang) [reply Mathlib/Order/PrimeSeparator.lean:49]: The word "proper" shouldn't be in this comment at all, I accidentally left it there from an earlier version. Thanks

File: Mathlib/Order/PrimeSeparator.lean (hunk 12 above)
Comment (samvang) [reply Mathlib/Order/PrimeSeparator.lean:152]: Ah great, this is what I was looking for!

File: Mathlib/Order/PrimeSeparator.lean (hunk 13 above)
Comment (samvang) [reply Mathlib/Order/PrimeSeparator.lean:133]: Thanks, I agree, I now reformulated it to emphasize the fact that this is where distributivity is used (as, mathematically speaking, this is the important point in the proof)
